Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin
 
Attending: ___.
 
Chief Complaint:
pain control
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o. M w/metastatic colon CA to lungs, bone and liver 
presents for pain control.   He describes pain over his left 
anterior chest wall and left shoulder, radiating to his upper 
arm for the past few months. His MSContin was increased on ___ 
from 60 mg BID to 60 mg qAM, 120 mg qPM after a call from his 
wife reporting that he was unable to sleep due to pain.  His 
wife is present during the interview and she presents a much 
more detailed history that the patient has been having 
difficulty sleeping due to pain, has been taking 10mg oxycodone 
every 2 hours for pain without relief in addition to his 
oxycontin, and has also been taking 1 mg ativan every four hours 
at night trying to achieve some relief without success.  The 
pain has not increased recently so much as the patient has been 
worn down by dealing with the pain for so long.  Pain is 
constant, gnawing, unchanged with position or movement.  Unable 
to worsen or relieve pain with palpation. ___ per patient but 
this is on a significant dose of pain medication.
 
Past Medical History:
- metastatic Colon CA: on ___ a right hepatic 
lobectomy and cholecystectomy were carried out. He also had a 
radical partial sternectomy with reconstruction. in ___ he was 
changed from ___ to Oxaliplatin and Avastin and Xeloda because of 
brachiocephalic clot from port.  Xeloda and Avastin were stopped 
___ thrombocytopenia. Because of the progressive disease he was 
started on Irinotecan and Cetuximab ___. He developed 
progressive back pain and completed palliative radiation to 
spine ___ he was restarted on chemotherapy.
- HTN
 
Social History:
___
___ History:
2 children are alive and well
Mother died of lung cancer age ___
Father died age ___ of CHF
No history of colon cancer
 
Physical Exam:
VS: T: 98.6 P: 93 BP: 145/86 RR: 22 O2 sat: 92% RA
GEN: chronically ill-appearing, appears anxious   
HEENT: NC/AT, sclera anicteric, + pterygium in R eye, OP clear, 
MMM, neck supple 
PUL: CTAB   
___: NR/RR, +s1/s2, +s3, no murmurs/rubs  
CHEST: s/p sternotomy with abdominal hernia, visible heart 
contractions  
___: hernia, +BS, flat, NT, ND, + BS  
EXTREMS: varicose veins bilat ___, no edema, 2+radial, 2+DP 
pulses  
NEURO: alert+oriented, moves all 4 extremities, CN II-XII 
intact, cerebellar exam wnl, strength ___ in proximal upper 
extremties, L>R, ___ in distal upper extremties, ___ in lower 
extremities

 
Pertinent Results:
___ 04:19PM   PLT COUNT-217
___ 04:19PM   NEUTS-67.9 ___ MONOS-6.8 EOS-2.6 
BASOS-0.1
___ 04:19PM   WBC-2.7* RBC-3.15* HGB-10.9* HCT-31.9* 
MCV-101* MCH-34.7* MCHC-34.2 RDW-17.2*
___ 04:19PM   GLUCOSE-121* UREA N-15 CREAT-0.6 SODIUM-132* 
POTASSIUM-4.6 CHLORIDE-92* TOTAL CO2-28 ANION GAP-___/P: ___ w/ metastatic colon CA to lungs and bone and liver 
presented with worsening left shoulder and anterior chest wall 
pain, likely from known vertebral mets. Pain persistent despite 
recent increase in his MSContin dose from 60 mg BID to 60 mg 
qAM, 120 mg qPM and use of frequent oxycodone. Worsening pain 
likely related to progression of bony disease. Patient underwent 
palliative radiation received Dexamethasone Q8H and discharged 
on slow taper. For further pain control his standing Morphine 
Sustained Release was increased to 150 mg PO Q8H, with 
Hydromorphone  ___ mg PO Q4H as needed for pain. We also started 
him on Gabapentin  300 mg Capsule TID, Ibuprofen  600 mg Tablet 
Q8H, Acetaminophen  1000 mg Tablet Q8H, and Lidocaine patch. 
Upon discharge his pain was well controlled and he was able to 
sleep through the night.
With regard to metastatic colon CA: to liver, bone, lungs. s/p 
radiation therapy, colonic resection, multiple chemotherapy 
regimens as in PMH, s/p sternal resection, s/p R hepatectomy. Pt 
is s/p 5 cycles of oxaliplatin and alimta, last on ___. Further 
treatment decisions will be made as out patient.  

# HTN: continued lisinopril
.  
# FEN: cardiac diet, monitor lytes, PO fluids  
.  
# Proph: heparin subQ, bowel regimen, PPI, on dexamethasone 
.  
# CODE: DNR/DNI - discussed in detail with pt and wife ___  
  
# Dispo: pending adequate pain control
 
Medications on Admission:
Lisinopril 10 mg
MsContin 60 mg qAM, 120 mg qHS (increased from 60 mg BID on ___
Folic acid 1 mg
Oxycodone PRN
Lidocaine TD
lorazepam
dexamethasone 2 mg daily

 
Discharge Medications:
1. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for apply to area of pain.
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*0*
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed: as needed for nausea or anxiety.
Disp:*30 Tablet(s)* Refills:*0*
8. Dexamethasone 2 mg Tablet Sig: Two (2) Tablet PO please see 
taper schedule: -2 TABs Q8H on ___ TABx Q12H on ___ TABs Q12H on ___ TAB Q12H  on ___ TAB daily on ___, and ___
-0.5 TAB on ___, 20, ___ and then off.
Disp:*20 Tablet(s)* Refills:*0*
9. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain: please hold for sedation .
Disp:*100 Tablet(s)* Refills:*0*
10. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO every 
eight (8) hours.
Disp:*90 Capsule(s)* Refills:*2*
11. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).
Disp:*60 Tablet(s)* Refills:*2*
12. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours).
Disp:*60 Tablet(s)* Refills:*2*
13. Morphine 30 mg Tablet Sustained Release Sig: Five (5) Tablet 
Sustained Release PO Q8H (every 8 hours).
Disp:*300 Tablet Sustained Release(s)* Refills:*0*

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
- metastatic Colon CA: on ___ a right hepatic 
lobectomy and cholecystectomy were carried out. He also had a 
radical partial sternectomy with reconstruction. in ___ he was 
changed from ___ to Oxaliplatin and Avastin and Xeloda because of 
brachiocephalic clot from port. Xeloda and Avastin were stopped 
___ thrombocytopenia. Because of the progressive disease he was 
started on Irinotecan and Cetuximab ___. He developed 
progressive back pain and completed palliative radiation to 
spine ___ he was restarted on chemotherapy.  
- HTN  

 
Discharge Condition:
Good, improved pain control

 
Discharge Instructions:
You were admitted and received radiation therapy for your 
metastatic colon cancer. We also increased your pain medication 
and added some new medication for better control (see below). 
Please be aware that the increase of your medication can lead to 
an initial period of more tiredness and increase in reaction 
time, therefore you should not be driving or operating machines.
Please follow up with your outpatient appointments.
Please call your doctor or 911 if you experience any worsening 
pain, nausea, vomiting or any other health concern.
 
Followup Instructions:
___